US04960940
The procedure as described in Examples 13 and 14 is repeated, using each time 150 parts of 2,5-bis(hydroxyethylsulfonylmethyl)nitrobenzene as well as each time the aqueous mother liquor and the palladium catalyst of the previous batch to give each time about 128 parts of 2,5-bis(hydroxyethylsulfonylmethyl)aniline of melting point 197° to 199° C. and a purity (diazotization) of >99%, i.e., mother liquor and catalyst can each be recycled at least 10 times without deterioration of the product or reduction of the yield.

reactant | 2,5-bis(hydroxyethylsulfonylmethyl)nitrobenzene | OCCS(=O)(=O)CC1=C(C=C(C=C1)CS(=O)(=O)CCO)[N+](=O)[O-] | C12H17NO8S2
catalyst | palladium | [Pd] | Pd
product | 2,5-bis(hydroxyethylsulfonylmethyl)aniline | OCCS(=O)(=O)CC1=C(N)C=C(C=C1)CS(=O)(=O)CCO | C12H19NO6S2
